US08557983B2
4-((tetrahydro-2H-pyran-4-yl)methylamino)benzenesulfonamide
4-Aminobenzenesulfonamide (6.80 g), tetrahydropyran-4-carboxaldehyde (4.96 g), and sodium triacetoxyborohydride (16.74 g) in tetrahydrofuran (300 mL) and acetic acid (15 mL) were stirred at room temperature for 24 hours. The reaction was concentrated and taken up in ethyl acetate. The resulting solution was washed with water and brine, concentrated, and chromatographed on silica gel with 50% ethyl acetate/hexanes.

reactant | 4-Aminobenzenesulfonamide | 6.80 g | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
reactant | tetrahydropyran-4-carboxaldehyde | 4.96 g | O1CCC(CC1)C=O | C6H10O2
reactant | sodium triacetoxyborohydride | 16.74 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4-((tetrahydro-2H-pyran-4-yl)methylamino)benzenesulfonamide | O1CCC(CC1)CNC1=CC=C(C=C1)S(=O)(=O)N | C12H18N2O3S
